US09126956B2
4B: (2S,4R)-5-(5′-Chloro-2′-fluorobiphenyl-4-yl)-2-hydroxymethyl-4-[(1-methoxy-1H-[1,2,3]triazole-4-carbonyl)amino]-2-methylpentanoic Acid
1-Methoxy-1H-[1,2,3]triazole-4-carboxylic acid (4.3 mg, 30 μmol) and HATU (11.4 mg, 30 μmol) were combined in DMF (1 mL) and stirred at room temperature for 15 minutes. (2S,4R)-4-amino-5-(5′-chloro-2′-fluorobiphenyl-4-yl)-2-hydroxymethyl-2-methylpentanoic acid (10 mg, 27 μmol) and DIPEA (14 μL, 82 μmol) were added, and the resulting mixture was stirred for 15 minutes at room temperature. The solvent was removed in vacuo and the residue was purified by preparative HPLC to yield the title compound (1.1 mg). MS m/z [M+H]+ calc'd for C23H24ClFN4O5, 491.14. found 491.2.

reactant | 1-Methoxy-1H-[1,2,3]triazole-4-carboxylic acid | 30 μmol, 4.3 mg | CON1N=NC(=C1)C(=O)O | C4H5N3O3
reactant | HATU | 30 μmol, 11.4 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2S,4R)-4-amino-5-(5′-chloro-2′-fluorobiphenyl-4-yl)-2-hydroxymethyl-2-methylpentanoic acid | 27 μmol, 10 mg | N[C@@H](C[C@@](C(=O)O)(C)CO)CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F | C19H21ClFNO3
reactant | DIPEA | 82 μmol, 14 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (2S,4R)-5-(5′-Chloro-2′-fluorobiphenyl-4-yl)-2-hydroxymethyl-4-[(1-methoxy-1H-[1,2,3]triazole-4-carbonyl)amino]-2-methylpentanoic Acid | 1.1 mg | ClC=1C=CC(=C(C1)C1=CC=C(C=C1)C[C@H](C[C@@](C(=O)O)(C)CO)NC(=O)C=1N=NN(C1)OC)F | C23H24ClFN4O5
